US06562811B1
To a solution of tert-butyl 3-(7-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)-1-piperidinecarboxylate (2.0 g, 3.248 mmol) in dioxane (15 mL) was added 4N HCl in dioxane (30 mL) at room temperature. The stirring was continued for 3 hrs. After the solvent was removed by evaporation, the resulting solid was triturated with acetonitril, collected by filtration, and washed with acetonitrile. The solid was dried under reduced pressure to give 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride as a white solid (0.865 g, yield; 62%).

reactant | tert-butyl 3-(7-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)-1-piperidinecarboxylate | 3.248 mmol, 2.0 g | C1(CC1)COC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C=1C=C(C2=C(NC(OC2)=O)N1)C1CN(CCC1)C(=O)OC(C)(C)C | C35H41N3O7
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 7-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-5-(3-piperidinyl)-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-2-one hydrochloride | 0.865 g, yield; 62% | Cl.C1(CC1)COC1=C(C(=CC=C1)O)C=1C=C(C2=C(NC(OC2)=O)N1)C1CNCCC1 | InChI=1S/C22H25N3O4.ClH/c26-18-4-1-5-19(28-11-13-6-7-13)20(18)17-9-15(14-3-2-8-23-10-14)16-12-29-22(27)25-21(16)24-17;/h1,4-5,9,13-14,23,26H,2-3,6-8,10-12H2,(H,24,25,27);1H
